US04954625
A mixture of 0.32 g of tert-butyl (RS)-3-amino-2-oxo-2,3,4,5-tetrahydro-1H-1-benzazepine-1-acetate and 0.2 g of ethyl (R)-(1-benzyloxycarbonyl-4-piperidyl)-2-methanesulfonylhexanoate is heated at 90° C. for 30 minutes. After cooled, the mixture is separated and purified by silicagel column chromatography (hexane:ethyl acetate=2:1) to give 0.14 g of tert-butyl 3(R)-[5-(1-benzyloxycarbonyl-4-piperidyl)-1(S)-ethoxycarbonylpentyl]amino-2-oxo-2,3,4,5-tetrahydro-1H-1-benzazepine-1-acetate as colorless oil from the first fraction.

reactant | tert-butyl (RS)-3-amino-2-oxo-2,3,4,5-tetrahydro-1H-1-benzazepine-1-acetate | 0.32 g | NC1C(N(C2=C(CC1)C=CC=C2)CC(=O)OC(C)(C)C)=O | C16H22N2O3
reactant | ethyl (R)-(1-benzyloxycarbonyl-4-piperidyl)-2-methanesulfonylhexanoate | 0.2 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)[C@@](C(=O)OCC)(CCCC)S(=O)(=O)C | C22H33NO6S
product | tert-butyl 3(R)-[5-(1-benzyloxycarbonyl-4-piperidyl)-1(S)-ethoxycarbonylpentyl]amino-2-oxo-2,3,4,5-tetrahydro-1H-1-benzazepine-1-acetate | 0.14 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCCC[C@@H](C(=O)OCC)N[C@H]1C(N(C2=C(CC1)C=CC=C2)CC(=O)OC(C)(C)C)=O | C37H51N3O7
